US08497274B2
(ii) Production of N-[4-chloro-5-(2-cyano-4-nitrophenoxy)-2-fluorophenyl]-2,2,2-trifluoroacetamide
To a solution of 2-(5-amino-2-chloro-4-fluorophenoxy)-5-nitrobenzonitrile (10 g, 32.5 mmol) in tetrahydrofuran (20 mL) was added trifluoroacetic anhydride (5.87 mL, 42.2 mmol), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with ethyl acetate (300 mL), washed successively with 5% aqueous sodium hydrogen carbonate solution (200 mL×3) and saturated brine (200 mL), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was purified by basic silica gel column chromatography (eluate: ethyl acetate). The obtained solution was concentrated under reduced pressure to give the title compound (12.6 g, 96%) as a yellow oil.

reactant | 2-(5-amino-2-chloro-4-fluorophenoxy)-5-nitrobenzonitrile | 32.5 mmol, 10 g | NC=1C(=CC(=C(OC2=C(C#N)C=C(C=C2)[N+](=O)[O-])C1)Cl)F | C13H7ClFN3O3
reactant | trifluoroacetic anhydride | 42.2 mmol, 5.87 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-[4-chloro-5-(2-cyano-4-nitrophenoxy)-2-fluorophenyl]-2,2,2-trifluoroacetamide | 12.6 g, 96% | ClC1=CC(=C(C=C1OC1=C(C=C(C=C1)[N+](=O)[O-])C#N)NC(C(F)(F)F)=O)F | C15H6ClF4N3O4
